US08536197B2
(123a) tert-Butyl 3-(2-fluoroethoxy)-4,4-dimethoxypiperidine-1-carboxylate
The same operation as in Example (90a) was performed using tert-butyl 3-hydroxy-4,4-dimethoxypiperidine-1-carboxylate (6.2 g, 23.7 mmol), sodium hydride (55% content, 1.57 g, 36 mmol), 2-fluoroethyl p-toluenesulfonate (7.85 g, 46 mmol) and DMF (50 mL). The residue was purified by column chromatography (elution solvent: hexane/ethyl acetate=10/1, 4/1, 2/1) to obtain 7.12 g of the title compound as a colorless oily substance (98%).

reactant | tert-butyl 3-hydroxy-4,4-dimethoxypiperidine-1-carboxylate | 23.7 mmol, 6.2 g | OC1CN(CCC1(OC)OC)C(=O)OC(C)(C)C | C12H23NO5
reactant | sodium hydride | 36 mmol, 1.57 g | [H-].[Na+]
reactant | 2-fluoroethyl p-toluenesulfonate | 46 mmol, 7.85 g | C1(=CC=C(C=C1)S(=O)(=O)OCCF)C | C9H11FO3S
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(2-fluoroethoxy)-4,4-dimethoxypiperidine-1-carboxylate | 7.12 g | FCCOC1CN(CCC1(OC)OC)C(=O)OC(C)(C)C | C14H26FNO5
